US04737511
4-(4-Fluorophenyl)-1,5-dihydro-1-(4-methoxyphenyl)-3-methyl-2H-pyrrol-2-one
In a manner similar to that described in Preparation 4, 4-(4-fluorophenyl)-1,5-dihydro-1-(4-methoxyphenyl)-2H-pyrrol-2-one is reacted with methyl iodide to give the title compound.

reactant | 4-(4-fluorophenyl)-1,5-dihydro-1-(4-methoxyphenyl)-2H-pyrrol-2-one | FC1=CC=C(C=C1)C1=CC(N(C1)C1=CC=C(C=C1)OC)=O | C17H14FNO2
reactant | methyl iodide | CI | CH3I
product | 4-(4-Fluorophenyl)-1,5-dihydro-1-(4-methoxyphenyl)-3-methyl-2H-pyrrol-2-one | FC1=CC=C(C=C1)C1=C(C(N(C1)C1=CC=C(C=C1)OC)=O)C | C18H16FNO2
